US04451462
A solution of 8.5 g (30 mmoles) of 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylacetic acid in 150 ml of 48% strength hydrobromic acid is boiled under reflux for 15 hours. The reaction mixture is cooled, diluted with water and adjusted to a pH of 3-4 with saturated sodium bicarbonate solution. The mixture is then extracted with ethyl acetate, and the combined organic phases are washed with water, dried over sodium sulphate and concentrated by evaporation in a high vacuum rotary evaporator. There is obtained a dark-grey foam comprising 5-chloro-2-hydroxy-4-(piperidin-1-yl)-phenylacetic acid, which is reacted, without being purified, to form 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one.

reactant | 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylacetic acid | 30 mmoles, 8.5 g | ClC=1C(=CC(=C(C1)CC(=O)O)OC)N1CCCCC1 | C14H18ClNO3
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 5-chloro-2-hydroxy-4-(piperidin-1-yl)-phenylacetic acid | ClC=1C(=CC(=C(C1)CC(=O)O)O)N1CCCCC1 | C13H16ClNO3
solvent | water | O | H2O
product | 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one | ClC=1C(=CC2=C(CC(O2)=O)C1)N1CCCCC1 | C13H14ClNO2
